US04229352
Using the above procedure, 3-(4-chlorobenzyl)-pyrrolylmethyl alcohol is reacted with 3-(i-butoxy)-2,2-dimethylcyclopropanecarboxylic acid to yield 3-(4-chlorobenzyl)-pyrrolylmethyl 3-(i-butoxy)-2,2-dimethylcyclopropanecarboxylate.

reactant | 3-(4-chlorobenzyl)-pyrrolylmethyl alcohol | ClC1=CC=C(CC2=C(NC=C2)CO)C=C1 | C12H12ClNO
reactant | 3-(i-butoxy)-2,2-dimethylcyclopropanecarboxylic acid | C(C(C)C)OC1C(C1C(=O)O)(C)C | C10H18O3
product | 3-(4-chlorobenzyl)-pyrrolylmethyl 3-(i-butoxy)-2,2-dimethylcyclopropanecarboxylate | C(C(C)C)OC1C(C1C(=O)OCC=1NC=CC1CC1=CC=C(C=C1)Cl)(C)C | C22H28ClNO3
